US07713966B2
To a solution of Carbamimidoyl-acetic acid ethyl ester (0.5 g) in ethyl acetate (6 mL) was added triethylamine (0.5 mL) and mixture was stirred at 5° C. Than 3-Bromo-butan-2-one (0.4 mL) was added under a nitrogen atmosphere and the mixture was refluxed for 1 h. The reaction mixture was then filtered through a medium porosity fitted glass funnel containing a thin layer of silica gel. The filtrate was washed with 100 mL of ethyl acetate and the combined washes were then evaporated under reduced pressure to give (0.25 g, 35%) of 2-Amino-4,5-dimethyl-1H-pyrrole-3-carboxylic acid ethyl ester [MH]+=183.

reactant | Carbamimidoyl-acetic acid ethyl ester | 0.5 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | 3-Bromo-butan-2-one | 0.4 mL | BrC(C(C)=O)C | C4H7BrO
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
product | 2-Amino-4,5-dimethyl-1H-pyrrole-3-carboxylic acid ethyl ester | 0.25 g, 35% | C(C)OC(=O)C1=C(NC(=C1C)C)N | C9H14N2O2
